US09334366B2
69.2 g (343 mmol) of N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (EDC hydrochloride) are added to a solution of 95.4 g (343 mmol) of (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoic acid, 4.27 g (34.3 mmol) of 4-dimethylaminopyridine in 1.5 L of dichloromethane at 0° C. To this mixture, 46.7 mL (343 mmol) of chlorohexanol in 100 mL of dichloromethane are incorporated at 10° C. The solution is allowed to stir at room temperature for 22 hours. The reaction mixture is then partitioned between dichloromethane and water. The organic phase is washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue using toluene yielded 89.3 g (72%) of pure 6-chlorohexyl(2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoate as a white powder.

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 343 mmol, 69.2 g | Cl.CN(CCCN=C=NCC)C
reactant | (2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoic acid | 343 mmol, 95.4 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)O | C12H12O5
reactant | chlorohexanol | 343 mmol, 46.7 mL | ClC(CCCCC)O | C6H13ClO
catalyst | 4-dimethylaminopyridine | 34.3 mmol, 4.27 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 1.5 L | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-chlorohexyl(2E)-3-{4-[(ethoxycarbonyl)oxy]phenyl}prop-2-enoate | 89.3 g, 72% | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OCCCCCCCl | C18H23ClO5
